US06369086B1
3-[Ethoxymethylidene]-5-(3-thienyl )-1H-pyrrolo[2,3-b]pyridin-2-one
This compound was synthesized from 5-(3-thienyl)-1H-pyrrolo[2,3-b]pyridin-2-one and diethoxymethyl acetate according to Procedure A. 1H NMR 400 MHz (DMSO-d6): δ10.89 (s, 1H); 8.33 (s, 1H); 7.88 (s, 1H); 7.84 (s, 1H); 7.79 (s, 1H); 7.62 (m,1H); 7.49 (d, 1H); 4.40 (m, 2H); 1.36 (m, 3H).

reactant | 5-(3-thienyl)-1H-pyrrolo[2,3-b]pyridin-2-one | S1C=C(C=C1)C=1C=C2C(=NC1)NC(C2)=O | C11H8N2OS
reactant | diethoxymethyl acetate | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 3-[Ethoxymethylidene]-5-(3-thienyl )-1H-pyrrolo[2,3-b]pyridin-2-one | C(C)OC=C1C(NC2=NC=C(C=C21)C2=CSC=C2)=O | C14H12N2O2S
